US08609675B2
Step K—Synthesis of ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4l)
In a 2-5 mL microwave vial was charged ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate (Int-4k, 300 mg, 0.45 mmol), phenylboronic acid (108 mg, 0.89 mmol), K3PO4 (189 mg, 0.89 mmol), and Pd(PPh3)4 (52 mg, 0.045 mmol). To this was added 3:1 1,4-dioxane:H2O (4 mL). The vial was flushed with argon and sealed. The reaction was heated to 140° C. for 20 minutes in a microwave synthesizer. The reaction was then diluted with DCM (30 mL) and washed with H2O. The organic phase was dried over Na2SO4 and the residue was purified via silica gel chromatography to yield the title compound. Yield=265 mg.

reactant | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-chloropyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | 0.45 mmol, 300 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)Cl)CC2CCC(CC2)C(=O)OCC)COCC[Si](C)(C)C)(C)C | C33H52ClN5O4Si2
reactant | phenylboronic acid | 0.89 mmol, 108 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 0.89 mmol, 189 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.045 mmol, 52 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 4 mL | O | H2O
product | ethyl 4-((7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)cyclohexanecarboxylate | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)CC2CCC(CC2)C(=O)OCC)COCC[Si](C)(C)C)(C)C | C39H57N5O4Si2
